US08461161B2
A mixture of methyl 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}benzoate (30 mg, 0.1 mmol) in dilute aqueous sodium hydroxide (0.5 mL, 2M, 1 mmol), methanol (2 mL) and dichloromethane (1 mL) was stirred at room temperature for 16 hours. After this time the mixture was concentrated under reduced pressure and the residue was dissolved in water (5 mL) which was then acidified to pH 6 with dilute aqueous hydrochloric acid (1M). The aqueous solution was extracted with ethyl acetate (3×10 mL) and the extracts were washed with brine (10 mL), dried (MgSO4) and concentrated under reduced pressure to give 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}benzoic acid (11 mg, 41%) as a beige coloured oil.

reactant | methyl 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}benzoate | 0.1 mmol, 30 mg | ClC1=CN=CC(=N1)NC(C)C=1C=C(C(=O)OC)C=CC1 | C14H14ClN3O2
reactant | sodium hydroxide | 1 mmol, 2M, 0.5 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-{1-[(6-chloropyrazin-2-yl)amino]ethyl}benzoic acid | 11 mg, 41% | ClC1=CN=CC(=N1)NC(C)C=1C=C(C(=O)O)C=CC1 | C13H12ClN3O2
